US08791139B2
Synthesis of methyl 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethyl)phenyl]carbamoyl}-1H-pyrazole-5-carboxylate
A solution of 1.00 g (3.55 mmol) of 1-(3-chloropyridin-2-yl)-5-(methoxycarbonyl)-1H-pyrazole-3-carboxylic acid in 13 ml of dichloromethane and 1.3 ml of N,N-dimethylformamide was cooled to 0° C., a solution of 0.86 g (5.33 mmol) of 4-(trifluoromethyl)aniline in 3 ml of dichloromethane was added dropwise and 0.68 g (3.55 mmol) of N-ethyl-N′-3-(dimethylaminopropyl)carbodiimide×HCl and 87 mg (710 μmol) of 4-dimethylaminopyridine were added a little at a time. The mixture was stirred at 0° C. for 2 hours and at 20° C. for 16 hours. The mixture was then diluted with dichloromethane and washed successively with 1 N aqueous hydrochloric acid and water. The organic phase was dried over sodium sulphate, the solvent was removed under reduced pressure and the residue was purified on silica gel using cyclohexane/ethyl acetate=3:1→2:1. (logP: 3.54).

reactant | 1-(3-chloropyridin-2-yl)-5-(methoxycarbonyl)-1H-pyrazole-3-carboxylic acid | 3.55 mmol, 1.00 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C(=O)O | C11H8ClN3O4
reactant | 4-(trifluoromethyl)aniline | 5.33 mmol, 0.86 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1.3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 710 μmol, 87 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethyl)phenyl]carbamoyl}-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C(NC1=CC=C(C=C1)C(F)(F)F)=O | C18H12ClF3N4O3
